US07288544B2
4) Synthesis of 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-pyrimidine-5-carboxylic acid:
274 mg (0.768 mmol) of 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-pyrimidine-5-carboxylic acid methylester was dissolved in 5 ml of THF and 5 ml of water. 33.7 mg (0.922 mmol) of lithium hydroxide monohydrate was added and stirred at 80° C. for 12 hours. 10 ml of water was added thereto and the organic layer was batched off. The obtained aqueous layer was diluted with ethyl acetate and washed with 5 ml of 3 N hydrochloric acid and then with 5 ml of saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-pyrimidine-5-carboxylic acid methylester | 0.768 mmol, 274 mg | COC(=O)C=1C(=NC(=NC1CC)SC)C1=CC(=CC(=C1)Cl)Cl | C15H14Cl2N2O2S
reactant | lithium hydroxide monohydrate | 0.922 mmol, 33.7 mg | O.[OH-].[Li+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-pyrimidine-5-carboxylic acid | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)O)CC)SC | C14H12Cl2N2O2S
